US05776983
A mixture of commercial (R)-N-(t-butoxycarbonyl)tyrosine (2.0 g, 6.35 mmol), dimethyl sulfate (1.3 mL, 14 mmol), K2CO3 (1.93 g, 14 mmol), and 18-crown-6-ether (185 mg, 0.7 mmol) was refluxed in 30 mL of toluene for five hours. After cooling and dilution with H2O, the organic layer was washed with H2O, dried over MgSO4, and concentrated. Chromatography of the residue on silica gel eluting with 20% EtOAc/hexane yielded methyl (R)-α-[N-[(phenylmethoxy)carbonyl]amino]-4-methoxybenzenepropanoate which was hydrolyzed by stirring three hours at 0° C. with NaOH (185 mg, 4.6 mmol) in 6 mL of 2:1 MeOH/H2O. After concentration, adjustment to pH 2, extraction with EtOAc (2×), and concentration, the crude acid was converted to (R)-α-amino-4-methoxy-N-phenylbenzenepropanamide by coupling to aniline under the conditions described in step A of Example 98 and utilizing the hydrogenolysis conditions described in Step A of Example 96. The title compound was prepared from (R)-α-amino!-4-methoxy-N-phenylbenzenepropanamide following the procedures described in steps D, E, and F of Example 19 with the following modifications: 1) the product of step D was not purified; 2) in step E, the product was chromatographed twice on silica gel eluting with 1.5% MeOH/CH2Cl2 ; and 3) in step F, after hydrogenolysis as the free base under 1 atom. H2, the title compound was purified by preparative HPLC using 48% solvent B prior to isolation as the free base.

reactant | (R)-N-(t-butoxycarbonyl)tyrosine | 6.35 mmol, 2.0 g | C(C)(C)(C)OC(=O)N[C@H](CC1=CC=C(C=C1)O)C(=O)O | C14H19NO5
reactant | dimethyl sulfate | 14 mmol, 1.3 mL | S(=O)(=O)(OC)OC | C2H6O4S
reactant | K2CO3 | 14 mmol, 1.93 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 18-crown-6-ether | 0.7 mmol, 185 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | methyl (R)-α-[N-[(phenylmethoxy)carbonyl]amino]-4-methoxybenzenepropanoate | C1(=CC=CC=C1)COC(=O)N[C@@H](C(=O)OC)CC1=CC=C(C=C1)OC | C19H21NO5
